Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Coumadin / Codeine
 
Attending: ___.
 
Chief Complaint:
Nonhealing right lower extremity ulcer.

 
Major Surgical or Invasive Procedure:
___: Split thickness skin graft to right lower extremity. 

 
History of Present Illness:
The patient is an ___ female with an extensive necrotic, 
infected ulcer of the right posterior lower calf Achilles tendon 
and pretibial areas.  The exact nature of this ulceration is 
unclear but has definitely been
improving with surgical debridement, antibiotics and 
compression.  A similar ulceration on the opposite leg was 
treated in the past with skin grafting.  The majority of the 
ulcers have a healthy bed of granulation and she presents for 
skin grafting of the right leg at this time.

 
Past Medical History:
PMH: HTN, HL, prior CVA, afib, warfarin induced skin necrosis 
(questionable diagnosis), anxiety

PSH: lap chole, hernia repair, tennis elbow, LLE wound 
debridement, LLE skin grafting

 
Physical Exam:
Alert and oriented x 3 
VS:BP  157/82      HR   74       RR  20
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses: palpable
Wounds: right posterior lower calf achilles tendon skin graft 
looks clean.  Edges of adjacent native skin are necrotic.   
Pretibial areas skin graft sites are intact also.   Dorsum of 
right foot has new small open area from slipper sock.  
 
Pertinent Results:
___ 07:10AM BLOOD WBC-6.9 RBC-3.68* Hgb-10.9* Hct-32.3* 
MCV-88 MCH-29.6 MCHC-33.7 RDW-14.1 Plt ___
___ 07:10AM BLOOD Glucose-90 UreaN-24* Creat-0.7 Na-133 
K-4.1 Cl-97 HCO3-26 AnGap-14
___ 07:10AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
The patient was brought to the operating room on ___ and 
underwent split-thickness skin graft of right thigh to the right 
lower leg.  The procedure was without complications.  She 
remained on bedrest for 5 days post procedure.  The dressing was 
taken down on POD 5.  Activity was liberalized.  On POD 6 a new 
ulceration was noted on the dorsum of the right foot felt to be 
secondary to a slipper/sock.  Ancef was restarted and bedrest 
was reintiated.  She was closely monitored and the grafts seem 
to have stabilized by POD 8.  She worked with ___ who recommended 
home with services for daily dressing changes.  Follow-up has 
been arranged with Dr. ___ in one week for wound check.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 15 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Dabigatran Etexilate 75 mg PO BID 
4. Pravastatin 20 mg PO DAILY 
5. Phenytoin Sodium Extended 100 mg PO DAILY 
6. TraMADOL (Ultram) 25 mg PO BID 
7. melatonin 3 mg Oral hs insomnia 
8. Diltiazem Extended-Release 180 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. BusPIRone 15 mg PO DAILY 
3. DiCLOXacillin 250 mg PO Q6H 
RX *dicloxacillin 250 mg 1 capsule(s) by mouth four times daily 
Disp #*28 Capsule Refills:*0
4. Dabigatran Etexilate 75 mg PO BID 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. TraMADOL (Ultram) 25 mg PO BID 
8. Phenytoin Sodium Extended 100 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. melatonin 3 mg Oral hs insomnia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nonhealing right lower extremity ulcerations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital after skin grafts to open 
areas on your right lower leg.  The skin grafts are very fragile 
at this point. It is very important that you protect them with a 
large bulky dressing and minimize any walking.

We have started you on an antibiotic which you should take for 
the next 7 days.
 
Followup Instructions:
___